US07691882B2
(3-(4-Benzyloxy-phenyl)-prop-1-ynyl)-trimethyl-silane
To a solution of trimethylsilyl acetylene (851 μL, 6.02 mmol) in tetrahydrofuran (20 mL) was added ethyl magnesium bromide (3 M diethyl ether solution, 1.86 mL, 5.59 mmol) under nitrogen atmosphere at room temperature, which was stirred for 40 minutes at 65° C. The reaction solution was cooled to room temperature, and copper (I) bromide (308 mg, 2.16 mmol) and 4-benzyloxybenzyl chloride (1.00 g, 4.30 mmol) were added to the reaction solution and stirred for 8 hours and 45 minutes at 65° C. Saturated ammonium chloride solution was added to the reaction solution at room temperature, which was then extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by NH silica gel column chromatography (heptane:ethyl acetate=30:1) to obtain the title compound (911 mg, 72%).

reactant | trimethylsilyl acetylene | 6.02 mmol, 851 μL | C[Si](C)(C)C#C | C5H10Si
reactant | ethyl magnesium bromide | 5.59 mmol, 3 M, 1.86 mL | C(C)[Mg]Br
reactant | 4-benzyloxybenzyl chloride | 4.30 mmol, 1.00 g | C(C1=CC=CC=C1)OC1=CC=C(CCl)C=C1 | C14H13ClO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
catalyst | copper (I) bromide | 2.16 mmol, 308 mg | [Cu]Br
product | (3-(4-Benzyloxy-phenyl)-prop-1-ynyl)-trimethyl-silane | 911 mg, 72% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC#C[Si](C)(C)C | C19H22OSi
